US05552409
a. 4-(3-chlorophenyl)-butyric acid
To a 300 ml round-bottomed flask equipped with magnetic stirrer and reflux condenser was charged 23.7 g of 87% potassium hydroxide and 150 ml of diethyleneglycol, With stirring, 23 g of 3-(3-chlorobenzoyl)-propionic acid was added followed by 24 g of 85% hydrazine. The mixture was heated to reflux for 2 hours when 50 ml of solvent was azeotroped off into a Dean-Stark trap. The reaction was refluxed for an additional 2 hours, cooled, and poured into 500 g of ice with 50 ml of con. hydrochloric acid. A white precipitate was formed which was extracted into 400 ml of ethyl ether, and washed with 100 ml of water and 100 ml of saturated sodium chloride solution. The ether extract was dried over anhydrous magnesium sulfate, filtered, and stripped to yield 19.5 g of product as a white solid.

reactant | potassium hydroxide | 23.7 g | [OH-].[K+]
reactant | 3-(3-chlorobenzoyl)-propionic acid | 23 g | ClC=1C=C(C(=O)CCC(=O)O)C=CC1 | C10H9ClO3
reactant | hydrazine | 24 g | NN | H4N2
solvent | diethyleneglycol | 150 ml | C(COCCO)O | C4H10O3
product | 4-(3-chlorophenyl)-butyric acid | 19.5 g | ClC=1C=C(C=CC1)CCCC(=O)O | C10H11ClO2
